US06077864
2-Iodo-3-(4-methoxyphenylsulfonyl)propionic acid (4.23 grams, 11.43 mmol) and Et3N (3.22 ml, 2.34 grams, 23.09 mmol) were combined in methylene chloride (150 ml) and stirred overnight at room temperature. The reaction mixture was diluted with 1N hydrochloric acid(aq) (100 ml). The separated aqueous layer was extracted with Et2O (2×). The dried (MgSO4) combined organics were then filtered and concentrated in vacuo to give 2.58 grams of crude product. This was filtered, the filtrate concentrated and the residue taken up in methanol, filtered and the filtrate concentrated to give 1.87 grams of crude product. This was taken up in hot methylene chloride. Fine crystals crashed out. Decanted filtrate. Washed crystals methylene chloride (2×1 ml) (decanted washings). Dried crystals on high vac to give 0.396 grams of 3-(4-Methoxyphenylsulfonyl)propenoic acid as a pale yellow solid (m.p.: 123°-128.5° C.). The filtrate was concentrated to give 1.42 grams of yellow solid which was flash chromatographed (60% EtOAc/hexane/2%/HOAc/0.5% methanol) to give 1.42 grams of 3-(4-Methoxyphenylsulfonyl)propenoic acid. A second chromatography (40% EtOAc/hexane/2%/HOAc/0.5% methanol) gave 0.568 grams of pure 3-(4-Methoxyphenylsulfonyl)propenoic acid.

reactant | 2-Iodo-3-(4-methoxyphenylsulfonyl)propionic acid | 11.43 mmol, 4.23 grams | IC(C(=O)O)CS(=O)(=O)C1=CC=C(C=C1)OC | C10H11IO5S
reactant | Et3N | 23.09 mmol, 3.22 ml, 2.34 grams | CCN(CC)CC | C6H15N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 1N, 100 ml | Cl | ClH
product | 3-(4-Methoxyphenylsulfonyl)propenoic acid | 0.396 grams | COC1=CC=C(C=C1)S(=O)(=O)C=CC(=O)O | C10H10O5S
